US04612143
Preparation of Neopentyl Fluoroformate
In this experiment, neopentyl 1,2,2,2-tetrachloroethyl carbonate is used as the starting material. A mixture of 3.3 g (0.011 mole) of neopentyl 1,2,2,2-tetrachloroethyl carbonate, 1 g (0.017 mole) of anhydrous KF, 5 g (0.001 mole) of polyethyleneglycol monomethylether (average molecular weight 5000 Aldrich) and 10 cc of benzonitrile is heated under stirring at 65° C. (oil bath). The reaction is stopped at the end of 34 hours. By infrared and NMR analysis it is determined that the fluoroformate is obtained in a 76% yield.

reactant | neopentyl 1,2,2,2-tetrachloroethyl carbonate | C(OCC(C)(C)C)(OC(C(Cl)(Cl)Cl)Cl)=O | C8H12Cl4O3
reactant | neopentyl 1,2,2,2-tetrachloroethyl carbonate | 0.011 mole, 3.3 g | C(OCC(C)(C)C)(OC(C(Cl)(Cl)Cl)Cl)=O | C8H12Cl4O3
reactant | KF | 0.017 mole, 1 g | [F-].[K+]
reactant | fluoroformate | FC(=O)[O-]
solvent | benzonitrile | 10 cc | C(C1=CC=CC=C1)#N | C7H5N
product | Neopentyl Fluoroformate | 76% yield | FC(=O)OCC(C)(C)C | C6H11FO2
